US08541457B2
Synthesis of 4-Methyl-2-(toluene-4-sulfonylamino)thiazole-5-carboxylic Acid Benzylamide
Following the procedure as described in Example 2, making variations only as required to use 4-methylbenzenesulfonyl chloride in place of benzoyl chloride to react with 2-amino-4-methylthiazole-5-carboxylic acid benzylamide, the title compound was obtained as a white solid in 43% yield; m.p. 242-245° C.; 1H NMR (DMSO-d6, 300 MHz) δ 12.89 (s, br, 1H), 8.58 (s, br, 1H), 7.66 (d, J=8.2 Hz, 2H), 7.33-7.17 (m, 7H), 4.32 (d, J=5.8 Hz, 2H), 2.32 (s, 3H), 2.31 (s, 3H); 13C NMR (DMSO-d6, 75 MHz) δ 166.2, 160.6, 143.0, 139.7, 139.6, 139.5, 129.9, 128.7, 127.8, 127.3, 126.2, 111.7, 43.1, 21.4, 13.6; MS (ES+) m/z 402.4 (M+1).

reactant | 4-methylbenzenesulfonyl chloride | CC1=CC=C(C=C1)S(=O)(=O)Cl | C7H7ClO2S
reactant | 2-amino-4-methylthiazole-5-carboxylic acid benzylamide | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)N)C | C12H13N3OS
product | 4-Methyl-2-(toluene-4-sulfonylamino)thiazole-5-carboxylic Acid Benzylamide | 43% yield | C(C1=CC=CC=C1)NC(=O)C1=C(N=C(S1)NS(=O)(=O)C1=CC=C(C=C1)C)C | C19H19N3O3S2
